US04125729
Methyl[p-(1-methylcyclohexyl)phenoxy][p-(p-chlorophenoxy) phenyl]acetate
In a manner similar to Example 16, 7.11 g of methyl α-bromo-α-[p-(p-chlorophenoxy)phenyl]acetate is reacted with 4.75 g of p-(1-methylcyclohexyl)phenol for 4 hrs. Chilling and filtering gives 7.4 g of product, mp 110°-112° C. Recrystallization from methanol-chloroform gives 6.3 g of white crystals, mp 111°-112.5° C.

reactant | methyl α-bromo-α-[p-(p-chlorophenoxy)phenyl]acetate | 7.11 g | BrC(C(=O)OC)C1=CC=C(C=C1)OC1=CC=C(C=C1)Cl | C15H12BrClO3
reactant | p-(1-methylcyclohexyl)phenol | 4.75 g | CC1(CCCCC1)C1=CC=C(C=C1)O | C13H18O
product | Methyl[p-(1-methylcyclohexyl)phenoxy][p-(p-chlorophenoxy) phenyl]acetate | 7.4 g | COC(C(C1=CC=C(C=C1)OC1=CC=C(C=C1)Cl)OC1=CC=C(C=C1)C1(CCCCC1)C)=O | C28H29ClO4
